US08685969B2
5. 4-(3-(6-Fluoro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-fluorobenzoic acid, TFA (31.6 mg, 0.048 mmol), N,N-diisopropylamine (0.013 mL, 0.072 mmol), BOP (27.7 mg, 0.063 mmol), and N-methylmorpholine (0.021 mL, 0.188 mmol) in DMF (4 mL) was heated at 45° C. for 1 hr. The mixture was diluted with ethyl acetate (60 mL), washed sequentially with water (3×25 mL) and brine (25 mL), and dried over anhydrous MgSO4. After the solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (13.3 mg, 0.025 mmol, 51.0% yield) as a yellow solid. LCMS (M+H)+=525.09. 1H NMR (500 MHz, DMSO-d6) δ: 11.72 (s, 1H), 8.37 (s, 1H), 8.25 (s, 1H), 7.82-7.79 (m, 2H), 7.72 (d, J=7.8 Hz, 1H), 7.65 (m, 1H), 7.63-7.58 (m, 2H), 7.50 (d, J=6.9 Hz, 1H), 7.41 (d, J=2.2 Hz, 1H), 7.20 (d, J=8.6 Hz, 1H), 6.76 (dd, J1=8.9 Hz, J2=2.2 Hz, 1H), 5.08 (d, J=17.2 Hz, 1H), 4.98 (d, J=17.2 Hz, 1H), 4.21 (m, 2H), 3.77 (m, 2H), 3.40 (s, 3H), 1.92 (s, 3H).

reactant | 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-fluorobenzoic acid | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)F)C | C30H27FN4O5
reactant | TFA | 0.048 mmol, 31.6 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N,N-diisopropylamine | 0.072 mmol, 0.013 mL | C(C)(C)NC(C)C | C6H15N
reactant | BOP | 0.063 mmol, 27.7 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 0.188 mmol, 0.021 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-(6-Fluoro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.025 mmol, 13.3 mg, 51.0% yield | FC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C30H25FN4O4
